US05196610
Stage 3: Preparation of 3-(4-bromophenoxy)benzyl bromide.
This compound was prepared from 3-(4-bromophenoxy)benzyl alcohol by a standard reaction with phosphorus tribromide.

reactant | 3-(4-bromophenoxy)benzyl alcohol | BrC1=CC=C(OC=2C=C(CO)C=CC2)C=C1 | C13H11BrO2
reactant | phosphorus tribromide | P(Br)(Br)Br | Br3P
product | 3-(4-bromophenoxy)benzyl bromide | BrC1=CC=C(OC=2C=C(CBr)C=CC2)C=C1 | C13H10Br2O
